US07851492B2
4-Chloro-2-(1H-tetrazol-5-yl)-phenylamine (500 mg) dissolved in toluene (15 ml) was treated with 4-chloro-3-trifluoromethylphenylisocyanate (600 mg) and stirred for a week. The precipitated product was filtered and then acid/base extracted and re-precipitated in aq. acid in a manner analogous to that described for 1-[4-Chloro-2-(1H-tetrazol-5-yl)-phenyl]-3-(3,5-dichloro-phenyl)-urea (Compound 12) to give 1-[4-Chloro-2-(IH-tetrazol-5-yl)-phenyl]-3-(4-chloro-3-trifluoromethyl-phenyl)-urea as a white solid (850 mg). Mp.=245-247° C.

reactant | 4-Chloro-2-(1H-tetrazol-5-yl)-phenylamine | 500 mg | ClC1=CC(=C(C=C1)N)C1=NN=NN1 | C7H6ClN5
reactant | 4-chloro-3-trifluoromethylphenylisocyanate | 600 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-Chloro-2-(IH-tetrazol-5-yl)-phenyl]-3-(4-chloro-3-trifluoromethyl-phenyl)-urea | 850 mg | ClC1=CC(=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C1=NN=NN1 | C15H9Cl2F3N6O
